US04192871
3α-Acetoxy-17β-cyano-5α-androstan-11β-ol
A solution of 17β-cyano-5α-androstane-3α,11β-diol (20 mg) in acetic anhydride (0.5 ml) containing pyridine (0.5 ml) was kept at room temperature for three days. The mixture was diluted with 2N-hydrochloric acid and extracted with ethyl acetate. Evaporation of the organic extract afforded title compound (21 mg).

reactant | 17β-cyano-5α-androstane-3α,11β-diol | 20 mg | C(#N)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1[C@H](C2)O)O | C20H31NO2
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydrochloric acid | Cl | ClH
product | 3α-Acetoxy-17β-cyano-5α-androstan-11β-ol | 21 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@@H]([C@@H]3[C@]2(CC1)C)O)C#N | C22H33NO3
